US09079866B2
4-{[4′-(5-Aminopyrazin-2-yl)-3′-fluorobiphenyl-2-yl]sulfonyl}piperazin-2-one
The title compound was prepared in a manner similar to that described in Example 448 using 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-pyrazin-2-amine and 4-((2-bromophenyl)sulfonyl)piperazin-2-one. MS (ESI): mass calcd. for C20H18FN5O3S, 427.11; m/z found, 428.2 [M+H]+. 1H NMR (400 MHz, CD3OD) δ 8.37 (s, 1H), 8.27 (d, J=1.4, 1H), 8.17-8.13 (m, 1H), 7.98 (m, 1H), 7.77-7.72 (m, 1H), 7.67-7.62 (m, 1H), 7.47-7.43 (m, 1H), 7.34-7.26 (m, 2H), 3.39 (s, 2H), 3.14 (s, 4H).

reactant | 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-pyrazin-2-amine | FC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)C=1N=CC(=NC1)N | C16H19BFN3O2
reactant | 4-((2-bromophenyl)sulfonyl)piperazin-2-one | BrC1=C(C=CC=C1)S(=O)(=O)N1CC(NCC1)=O | C10H11BrN2O3S
product | 4-{[4′-(5-Aminopyrazin-2-yl)-3′-fluorobiphenyl-2-yl]sulfonyl}piperazin-2-one | NC=1N=CC(=NC1)C1=C(C=C(C=C1)C1=C(C=CC=C1)S(=O)(=O)N1CC(NCC1)=O)F | C20H18FN5O3S
